US05686480
3-(4-((E)-2-Phenylethenyl)-1,2,3,6 -tetrahydropyridin-1-ylmethyl)-4,5-dihydro-1H-benzo[g]indazole
A solution of (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide (0.20 g), 4-((E)-2-phenylethenyl)-1,2,3,6-tetrahydropyridine (0.085 g) and diisopropylethylamine (0.10 cm3) in DMF (10 cm3) was heated under nitrogen at 80° C. for 48 hours. The mixture was cooled, poured into water (50 cm3) and extracted with 10% ethyl acetate-diethyl ether (2×50 cm3). The extracts were dried (MgSO4), filtered and concentrated to give a brown oil. Preparative thin layer chromatography on silica gel, eluting with 5% methanol-dichloromethane+1% ammonia, gave the title compound as a brown foam, which was crystallised as the oxalate salt from ethanol to give beige granules (0.007 g; 3%), m.p. 205°-210° C. (from EtOH); δH (360 MHz; d6 -DMSO+CF3CO2H) 2.54-2.70 (2H, m, NCH2CH2), 2.76 (2H, t, J 7.5, --CH2 --), 2.92 (2H, t, J 7.5, --CH2 --), 3.12-3.32 (1H, m, NCHAHBCH2), 3.60-3.78 (1H, m, NCHAHBCH2), 3.82-4.00 (2H, m, NCH2CH=C), 4.40 (2H, broad s, --CH2N), 5.90 (1H, s, NCH2 CH=C), 6.60 (1H, d, J 16.3, CH=CHPh), 6.96 (1H, d, J 16.3, CH=CHPh) 7.22-7.35 (6H, m, 6 of ArH), 7.49 (2H, d, J 7.4, 2 of ArH) and 7.64 (1H, d, J 6.6, 1 of ArH); m/z (CI+ ; NH3) 368 (MH+ ; 10%), 298 (10), 188 (15), 186 (20) and 184 (100). Found: M+ 367.2039. C25H25N3 requires 367.2048.

reactant | (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide | 0.20 g | [I-].N1N=C(C=2CCC3=C(C12)C=CC=C3)C[N+](C)(C)C
reactant | 4-((E)-2-phenylethenyl)-1,2,3,6-tetrahydropyridine | 0.085 g | C1(=CC=CC=C1)/C=C/C=1CCNCC1 | C13H15N
reactant | diisopropylethylamine | 0.10 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 50 cm3 | O | H2O
solvent | DMF | 10 cm3 | CN(C)C=O | C3H7NO
product | 3-(4-((E)-2-Phenylethenyl)-1,2,3,6 -tetrahydropyridin-1-ylmethyl)-4,5-dihydro-1H-benzo[g]indazole | C1(=CC=CC=C1)/C=C/C=1CCN(CC1)CC1=NNC=2C3=C(CCC12)C=CC=C3 | C25H25N3
